US06821965B1
Oxalyl chloride (4.8 ml) was added to a solution of 3-nitro-4-methylbenzoic acid (9.06 g) in methylene chloride (100 ml) and DMF (a few drops) and the reaction stirred at ambient temperature for 16 hours. The reaction mixture was evaporated and the residue was dissolved in methylene chloride (100 ml). 3,4-Dichlorobenzylamine (7.04 g), 4-dimethylaminopyridine (0.31 g) and triethylamine (13.9 ml) were added and the reaction mixture was stirred at ambient temperature for 16 hours. The mixture was washed with a saturated aqueous sodium bicarbonate solution, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography using a 250:8:1 mixture of methylene chloride, methanol and a saturated aqueous ammonium chloride solution as eluent to give N-(3,4-dichlorobenzyl)4-methyl-3-nitrobenzamide as a solid (9.95 g); NMR Spectrum: (DMSOd6) 2.57 (s, 3H), 4.47 (d, 2H), 7.31 (m, 1H), 7.56 (m, 2H), 7.61 (d, 1H), 8.1 (m, 1H), 8.47 (d, 1H), 9.3 (t, 1H).

reactant | Oxalyl chloride | 4.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-nitro-4-methylbenzoic acid | 9.06 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1C | C8H7NO4
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | N-(3,4-dichlorobenzyl)4-methyl-3-nitrobenzamide | 9.95 g | ClC=1C=C(CNC(C2=CC(=C(C=C2)C)[N+](=O)[O-])=O)C=CC1Cl | C15H12Cl2N2O3
